US07344701B2
4.1 Preparation of dichlorophenyl xanthene dye
4-Chlororesorcinol (33 g) was mixed with 4,5-dichlorophthalic anhydride in methane sulfonic acid (100 mL) according to the procedure of Menchen, et. al, (U.S. Pat. No. 5,654,442). Briefly, with magnetic stirring, the solution was heated to 180° C. over 30 min and maintained for an additional 30 minutes. The mixture was allowed to cool to ˜100° C. and was cautiously poured into water (1 L). The solid was collected by filtration and air dried for several days, followed by 24 h of high vacuum and was characterized as having the structure above.

reactant | 4-Chlororesorcinol | 33 g | ClC1=C(C=C(O)C=C1)O | C6H5ClO2
reactant | 4,5-dichlorophthalic anhydride | ClC=1C=C2C(C(=O)OC2=O)=CC1Cl | C8H2Cl2O3
reactant | water | 1 L | O | H2O
solvent | methane sulfonic acid | 100 mL | CS(=O)(=O)O | CH4O3S
product | dichlorophenyl xanthene | ClC=1C(=C(C=2CC3=CC=CC=C3OC2C1)C1=CC=CC=C1)Cl | C19H12Cl2O
